US07737149B2
Benzyl 4-propan-2-yl-1,4-diazepane-1-carboxylate (3.00 g, 10.85 mmol) and palladium, 10% on carbon (0.289 g, 2.71 mmol) in ethanol (54.3 ml) were stirred under an atmosphere of hydrogen at atmospheric pressure and ambient temperature for 18 h. The reaction mixture was filtered through celite, washing with ethanol, methanol and dichloromethane and the filtrate concentrated under reduced pressure to afford 1-propan-2-yl-1,4-diazepane (1.54 g, 100%) as a yellow liquid. This was used directly with no further purification.

reactant | Benzyl 4-propan-2-yl-1,4-diazepane-1-carboxylate | 10.85 mmol, 3.00 g | CC(C)N1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C16H24N2O2
solvent | ethanol | 54.3 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-propan-2-yl-1,4-diazepane | 1.54 g, 100% | CC(C)N1CCNCCC1 | C8H18N2
